US08791161B2
3-chloro-N-[5-chloro-2-(methylthio)phenyl]-2-fluorobenzenesulfonamide
Following General Procedure B, the title compound (386 mg, 62%) was prepared from 5-chloro-2-methylsulfanyl-phenylamine (297 mg, 1.71 mmol) and 3-chloro-2-fluoro-benzenesulfonyl chloride (392 mg, 1.71 mmol).

reactant | 5-chloro-2-methylsulfanyl-phenylamine | 1.71 mmol, 297 mg | ClC=1C=CC(=C(C1)N)SC | C7H8ClNS
reactant | 3-chloro-2-fluoro-benzenesulfonyl chloride | 1.71 mmol, 392 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
product | 3-chloro-N-[5-chloro-2-(methylthio)phenyl]-2-fluorobenzenesulfonamide | 386 mg, 62% | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SC)F | C13H10Cl2FNO2S2
